US07691282B2
C3F7OCFHCF2CH2OH was prepared by the reaction of C3F7OCF═CF2 (53 g, 0.2 mol) with methanol (63.7 g, 2.0 mol) using t-amylperoxybenzoate (1.0 g) as free radical initiator at 106° C. The product reaction mixture was washed with water and distilled and the distillation fraction of b.r.=115-117° C. used in the next step.

reactant | C3F7OCF═CF2 | 0.2 mol, 53 g | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)=C(F)F | C5F10O
reactant | methanol | 2.0 mol, 63.7 g | CO | CH4O
reactant | t-amylperoxybenzoate | 1.0 g | C(C)(C)(CC)OOC(C1=CC=CC=C1)=O | C12H16O3
product | C3F7OCFHCF2CH2OH | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)C(F)(F)CO | C6H4F10O2
